US07728025B2
(Step 6) Production of 3-(4-((6-(1-acetylpyrrolidin-2-yl)-2-pyrazin-2-yl-1H-benzimidazol-5-yl)oxy)phenyl)-1,3-oxazolidin-2-one enantiomer A
One chiral form of the entitled compound was obtained as a yellow oily substance in the same method as in Example 338 (step 5) or in accordance with the method or by combining it with an ordinary method but using 3-(4-hydroxyphenyl)-1,3-oxazolidin-2-one and N-(4-(1-acetylpyrrolidin-2-yl)-5-fluoro-2-nitrophenyl)pyrazin-2-carboxamide enantiomer A.

reactant | 3-(4-hydroxyphenyl)-1,3-oxazolidin-2-one | OC1=CC=C(C=C1)N1C(OCC1)=O | C9H9NO3
reactant | N-(4-(1-acetylpyrrolidin-2-yl)-5-fluoro-2-nitrophenyl)pyrazin-2-carboxamide | C(C)(=O)N1C(CCC1)C1=CC(=C(C=C1F)NC(=O)C1=NC=CN=C1)[N+](=O)[O-] | C17H16FN5O4
product | 3-(4-((6-(1-acetylpyrrolidin-2-yl)-2-pyrazin-2-yl-1H-benzimidazol-5-yl)oxy)phenyl)-1,3-oxazolidin-2-one | C(C)(=O)N1C(CCC1)C=1C(=CC2=C(NC(=N2)C2=NC=CN=C2)C1)OC1=CC=C(C=C1)N1C(OCC1)=O | C26H24N6O4
